datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:15]([C:14](=[C:13]([H:19])[H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:8])[H:7],64.0152
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[S:9])[H:10]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:8](=[S:9])[H:10],38.4928
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[C:4]([H:12])[H:13])[H:11])[H:7])([H:5])[H:6]>>[C:0]1([H:5])([H:6])[C:1]([C:2]([H:8])([H:9])[H:10])([H:7])[C:3]1([C:4]([H:12])[H:13])[H:11],30.5432
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[H:8]>>[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])[H:4].[H:3][H:8],25.64792
[C:0](#[C:1][H:3])[H:2].[C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7]>>[C:0]#[C:1][H:3].[H:2][C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7],174.389
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[H:19]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][H:19],2.092
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9][C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:9](=[C:8]([H:11])[H:12])[C:10]([H:13])([H:14])[H:15])[H:4],10.2508
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:8](=[C:9]([H:11])[H:12])[H:10],19.6648
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])([H:24])([H:25])[H:26]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:21]([C:20]([H:24])([H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])([H:10])[H:11],29.7901
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[O:11][O:12]>>[C:0]([C:1](=[C:2]([C:3]=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][O:11][O:12],157.3184
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:10])([H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],42.8442
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17],48.116
[C:0]([C:1]([C:2]([O:3][H:10])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6]>>[C:0]([C:1]([C:2]([O:3][H:10])([H:4])[H:9])([H:7])[H:8])([H:5])[H:6],142.674
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:19]([C:18](=[C:17]([H:21])[H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])([H:9])[H:10],63.4294
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](#[C:7][C:8]([H:10])[H:11])[H:9]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7]#[C:6][H:9])([H:10])[H:11],179.452
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[N:10]([H:11])[H:12]>>[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:3][N:10]([H:11])[H:12],22.986896
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([C:15]([H:26])([H:27])[H:28])[c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:25])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:22])([H:23])[H:24])([C:14]([C:15]([H:26])([H:27])[H:28])[c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:25])[H:5],34.1833
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13](=[S:14])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:15])[H:7])([H:5])[H:6].[C:12]([C:13](=[S:14])[H:18])([H:16])[H:17],81.588
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[S:15]=[C:16][S:17][H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16](=[S:15])[S:17][H:18],30.1248
